US04611056
Synthesis of Diethyl 12H-benzo[a]phenothiazin-5-yl phosphate
To a solution of 5-hydroxy-12H-benzo[a]phenothiazine (1.5 g) and diethyl chlorophosphate (2 ml) in DMF (20 ml) there was added a powdered mixture of potassium carbonate (2 g) and potassium iodide (2 g). The reaction mixture was stirred at room temperature. After 30 minutes, a further addition of potassium carbonate and potassium iodide (2 g each) was made and stirring was continued. Two hours later more carbonate (2 g) and diethyl chlorophosphate (2 ml) were added, and then three hours later a final addition of carbonate (2 g) was made. The mixture was stirred for 3 days then diluted with ethyl acetate (60 ml) and the insolubles filtered. The filtrate was washed with water, dried and evaporated down. This residue was crystallized from acetone, then chromatographed on a column of silica gel, eluting first with 1:1, then 3:1 mixtures of ethyl acetate and hexane to afford pure title compound (337 mg), m.p. 162°-163° C.

reactant | 5-hydroxy-12H-benzo[a]phenothiazine | 1.5 g | OC1=C2C(=C3NC4=CC=CC=C4SC3=C1)C=CC=C2 | C16H11NOS
reactant | diethyl chlorophosphate | 2 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | carbonate | 2 g | C([O-])([O-])=O
reactant | diethyl chlorophosphate | 2 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | carbonate | 2 g | C([O-])([O-])=O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | Diethyl 12H-benzo[a]phenothiazin-5-yl phosphate | 337 mg | P(=O)(OCC)(OCC)OC1=C2C(=C3NC4=CC=CC=C4SC3=C1)C=CC=C2 | C20H20NO4PS
